US08420690B2
a) 1-amino-3-phenyl-2-propanol
A solution of 2-(phenylmethyl)oxirane (7.5 g, 56.3 mmol) in NH4OH (100 mL) was stirred at 25° C. in a sealed tube. After 12 h, the solution was concentrated and used directly: LCMS (ES) m/e 152 (M+H)+.

reactant | 2-(phenylmethyl)oxirane | 56.3 mmol, 7.5 g | C1(=CC=CC=C1)CC1OC1 | C9H10O
reactant | NH4OH | 100 mL | [NH4+].[OH-]
product | 1-amino-3-phenyl-2-propanol | NCC(CC1=CC=CC=C1)O | C9H13NO
